US03931218
Eighteen grams of 2-(p-chlorobenzoyl)-N-[2(p-toluenesulfonamido)ethyl]N-isopropylbenzamide and 65 ml. of 90% (v/v) sulfuric acid were mixed together and heated in a steam bath for thirty minutes. The solution was left standing at room temperature for 17 hours. The mixture was quenched with 800 ml. of ice water and extracted with ethyl acetate. The aqueous portion was cooled and made basic with 50% sodium hydroxide solution. The mixture was extracted with ethyl acetate. The organic portion was extracted with water then dried over magnesium sulfate. The solvent was removed in vacuo. The residue was recrystallized from ethyl acetate-hexane to obtain 4'-chloro-2-(1-isopropyl-2-imidazolin-2-yl)benzophenone, m.p. 114°-117°C. Anal. Calc'd for C19H19N2ClO: C, 69.82; H, 5.86; N, 8.57; Cl, 10,85. Found: C, 69.62; H, 6.05; N, 8.35; Cl, 10.87.

reactant | 2-(p-chlorobenzoyl)-N-[2(p-toluenesulfonamido)ethyl]N-isopropylbenzamide | Eighteen grams | ClC1=CC=C(C(=O)C2=C(C(=O)N(C(C)C)CCNS(=O)(=O)C3=CC=C(C=C3)C)C=CC=C2)C=C1 | C26H27ClN2O4S
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 4'-chloro-2-(1-isopropyl-2-imidazolin-2-yl)benzophenone | ClC1=CC=C(C=C1)C(C1=C(C=CC=C1)C=1N(CCN1)C(C)C)=O | C19H19ClN2O
